US07148245B2
(a) 1-Bromo-4-(3-methylbut-2-enylsulphanyl)benzene
In a manner similar to that of Example 34(h), by reaction of 30.00 g (159.0 mmol) of 4-bromo-thiophenol with 26.00 g (175.0 mmol) of 1-bromo-3-methyl-2-butene, 37.40 g (93%) of the expected product are obtained in the form of a yellow oil.

reactant | 4-bromo-thiophenol | 159.0 mmol, 30.00 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | 1-bromo-3-methyl-2-butene | 175.0 mmol, 26.00 g | BrCC=C(C)C | C5H9Br
product | 1-Bromo-4-(3-methylbut-2-enylsulphanyl)benzene | 37.40 g, 93% | BrC1=CC=C(C=C1)SCC=C(C)C | C11H13BrS
